US06780855B2
A solution of 466 mg of 7α-(5-bromopentyl)-11β-fluor-estra-1,3,5(10)-triene-3,17-diol in 10 ml of 1-methyl-2-pyrrolidinone is stirred with 1.47 g of (4,4,5,5,6,6,7,7,8,8,9,9,10,10,11,11,11-heptadecafluor-undecyl)-methyl-amine for 3 hours at a bath temperature of 80° C. For working-up, the batch is added to saturated sodium chloride solution, extracted with ether, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with ethyl acetate/methanol. 524 mg of 11β-fluoro-7α-{5-[(4,4,5,5,6,6,7,7,8,8,9,9,10,10,11,11,11-heptadecafluor-undecyl)-methyl-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol is obtained as a foam, [α]D=+24° (c=0.5 in CHCl3).

reactant | 7α-(5-bromopentyl)-11β-fluor-estra-1,3,5(10)-triene-3,17-diol | 466 mg | BrCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O | C23H32BrFO2
reactant | (4,4,5,5,6,6,7,7,8,8,9,9,10,10,11,11,11-heptadecafluor-undecyl)-methyl-amine | 1.47 g | FC(CCCNC)(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C12H10F17N
reactant | sodium chloride | [Cl-].[Na+]
reactant | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 11β-fluoro-7α-{5-[(4,4,5,5,6,6,7,7,8,8,9,9,10,10,11,11,11-heptadecafluor-undecyl)-methyl-amino]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 524 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(C)CCCC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)O | C35H41F18NO2
